data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_305249_2,[C:1]1([N:6]([H:9])[H:10])([O:7][C:4]([H:15])([H:16])[H:17])[C:2]([H:11])([H:12])[N:5]([H:8])[C:3]1([H:13])[H:14]>>[C@@:1]1([C:3]([O:7][C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([N:6]([H:9])[H:10])[C:2]([H:11])([H:12])[N:5]1[H:8],70.1419500000064
MR_532857_0,[C:1](/[C:2](=[C:5](\[C:3]([N:4]([H:12])[H:13])=[C:6]([H:15])[H:16])[H:14])[O:8][H:11])([O:7][H:10])=[O:9]>>[C:1]1([O:7][H:10])=[C:2]([O:8][H:11])[C:5]2([H:14])[C:3]([N:4]([H:12])[H:13])([C:6]2([H:15])[H:16])[O:9]1,62.573044999997336
MR_353915_1,[C:1]([C:3]([O:6][N:2]([C:4](=[C:5]([H:14])[H:15])[H:10])[H:8])[N:7][H:9])([H:11])([H:12])[H:13]>>[C:1](/[C:3]([C:5]([C@:4]1([H:10])[N:2]([H:8])[O:6]1)([H:14])[H:15])=[N:7]/[H:9])([H:11])([H:12])[H:13],72.43859999998634
MR_251855_0,[N:1]([C:2]([N:4]([H:10])[H:11])=[O:6])([N:3]([H:8])[H:9])[O:5][H:7]>>[N:1]([C:2]([O:5][H:7])=[O:6])([N:3]([H:8])[H:9])[N:4]([H:10])[H:11],33.88374500002229
MR_492616_1,[C:1]([N:2]([H:8])[H:9])(/[N:5]=[C:3](\[O:4][H:7])[H:11])=[N:6]/[H:10]>>[C:1]1([N:2]([H:8])[H:9])=[N:5][C:3]([O:4][H:7])([H:11])[N:6]1[H:10],21.51885750003004
MR_81076_0,[C@:1]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([N:5]([C:3]([H:14])([H:15])[H:16])[O:7][H:8])[H:9]>>[C@@:1]([C:4]([H:17])([H:18])[H:19])([N:5]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])([O:7][H:8])[H:9],70.47075999996096
MR_364727_2,[C:1](\[C:3]([H:18])([H:19])[H:20])(=[C:8](\[C:6]1([N:7]([H:13])[H:14])[C:5]([C:2]([C:4]([H:21])([H:22])[H:23])([H:16])[H:17])([O:9][H:11])[O:10]1)[H:15])[H:12]>>[C:1]([C:2]([C:4]([H:21])([H:22])[H:23])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])(/[C:8](=[C:6](\[C:5]([O:9][H:11])=[O:10])[N:7]([H:13])[H:14])[H:15])[H:12],62.05535749998461
MR_147448_1,[C:1]([N:2](/[C:3]([N:4]([H:8])[H:9])=[N:6]\[H:10])[C:5](=[O:7])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:5](\[O:7]/[C:3]([N:4]([H:8])[H:9])=[N:6]\[H:10])[H:11])([H:12])([H:13])[H:14],49.05544000002621
MR_14815_2,[C:1](/[N:3]=[C:5](/[C:6]([C:2]([H:15])([H:16])[H:17])(/[C:4](=[N:7]\[H:8])[H:9])[H:11])[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:3](/[C:4](=[N:7]\[H:8])[H:9])/[C:5](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[H:10])([H:12])([H:13])[H:14],70.04845249999278
MR_427890_0,[C:1]1([H:15])([H:16])[C:7]([C:2]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[H:13])([H:18])[N:8]1/[C:6](=[N:5]/[H:14])[H:17]>>[C:1]([C:7](=[C:2]([N:3]([H:9])[H:10])[N:4]([H:11])[H:12])[H:18])(/[N:8]=[C:6](/[N:5]([H:13])[H:14])[H:17])([H:15])[H:16],47.19113749998911
MR_101044_0,[C:1]([C:4]([C:3]([C:2]([O:5][H:9])=[O:8])[O:6][H:10])[O:7][H:11])([H:12])([H:13])[H:14]>>[C:1]([C@:4]1([O:7][H:11])[C:3]([O:6][H:10])=[C:2]([O:5][H:9])[O:8]1)([H:12])([H:13])[H:14],60.263217500015
MR_12642_0,[C:1]([N:2]([H:8])[H:10])([N:3]([H:9])[H:11])(/[C:5](=[C:6](/[N:4]([H:12])[H:13])[H:15])[H:14])[H:7]>>[C:1]([N:2]([H:8])[H:10])([N:3]([H:9])[H:11])=[C:5]([C:6]([N:4]([H:12])[H:13])([H:7])[H:15])[H:14],71.18673750000809
MR_451040_0,[C:1]([O:5][N:3](/[C:4]([O:6][C:2]([H:13])([H:14])[H:15])=[N:7]/[H:9])[H:8])([H:10])([H:11])[H:12]>>[C:1]([O:5][N:7](/[C:4](=[N:3]\[H:8])[O:6][C:2]([H:13])([H:14])[H:15])[H:9])([H:10])([H:11])[H:12],65.35663499999629
MR_662612_2,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([C:5]([N:6]([H:11])[H:12])=[O:9])=[O:8])[O:7][H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:5]([C:4]([N:6]([H:11])[H:12])=[O:8])=[O:9])[O:7][H:10],71.18046249998827
MR_626502_0,[C:1]([C:2]([C:3]1([H:10])/[C:4](=[N:6]/[H:9])[N:5]1[H:8])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3](/[C:4](=[N:6]/[H:9])[H:10])=[N:5]/[H:8])=[O:7])([H:11])([H:12])[H:13],60.329105000027
MR_333106_0,[C:1]([O:2][O:4][H:8])([O:3][O:5][H:7])=[O:6]>>[C:1]([O:2][O:3][O:5][H:7])([O:4][H:8])=[O:6],52.26823999997592
MR_261894_0,[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])=[N:6][N:3]([N:5]([H:8])[H:9])[H:7])([H:10])([H:11])[H:15]>>[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])([N:5]([H:8])[H:9])[N:6][N:3][H:7])([H:10])([H:11])[H:15],66.68568000002935
MR_183294_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([N:4]([H:10])[H:11])=[O:7])([O:5][H:8])[O:6][H:9]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([O:5][H:8])[C:3]([N:4]([H:10])[H:11])([O:6][H:9])[O:7]1,60.0040599999916
MR_156227_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:9])([H:14])[H:15])([C:4]([H:10])([H:16])[H:17])[O:6][C:5](=[O:7])[H:8]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:9])([H:14])[H:15])([C:4]([H:10])([H:16])[H:17])[O:7][C:5](=[O:6])[H:8],44.51171249997685
MR_676454_1,[C:1]1([H:11])([H:12])[C:7]([C:4]([H:18])([H:19])[H:20])([C:5](=[C:2]([H:13])[H:14])[O:8][H:10])[C:6]([C:3]([H:15])([H:16])[H:17])=[N:9]1>>[C:1]1([H:11])([H:12])[C:7]([C:4]([H:18])([H:19])[H:20])=[C:5]([O:8][H:10])[C:2]([H:13])([H:14])[C:6]([C:3]([H:15])([H:16])[H:17])=[N:9]1,65.40871750000747
